US04474815
(b) O-(pentafluorobenzyl)hydroxylamine hydrochloride
N-(Pentafluorobenzyloxy)phthalimide 15.9 g, 46 mmol), n-butylamine (3.7 g, 50 mmol) and absolute ethanol (90 ml) were placed in a dry flask under a nitrogen atmosphere. This reaction mixture was stirred at 60° C. for 1 hour, cooled and adjusted to pH 3 using dry hydrogen chloride gas. The resulting white precipitate was filtered and the crystals washed with ice-cold ethanol/ether (1:1). The filtrate was concentrated to give a second crop of crystals. The combined yield of the hydroxylamine hydrochloride was 11.15 g, 99%, m.p. (sublimed) 150°. Analysis: (Found: C, 33.7; H. 2.2; Cl, 13.9; F, 37.8; N, 5.7, C7H5ClF5NO requires C, 33.7; H, 2.0; Cl, 14.2; F, 38.1; N, 5.6%).

reactant | N-(Pentafluorobenzyloxy)phthalimide | 46 mmol, 15.9 g | FC1=C(C(=C(C(=C1CON1C(C=2C(C1=O)=CC=CC2)=O)F)F)F)F | C15H6F5NO3
reactant | n-butylamine | 50 mmol, 3.7 g | C(CCC)N | C4H11N
reactant | hydrogen chloride | Cl | ClH
reactant | hydroxylamine hydrochloride | Cl.NO
solvent | ethanol | 90 ml | C(C)O | C2H6O
product | O-(pentafluorobenzyl)hydroxylamine hydrochloride | Cl.FC1=C(C(=C(C(=C1CON)F)F)F)F | InChI=1S/C7H4F5NO.ClH/c8-3-2(1-14-13)4(9)6(11)7(12)5(3)10;/h1,13H2;1H
